US07868175B2
1-[4-({2-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]ethyl}methylcarbamoyl)benzyl]piperidine-4-carboxylic Acid
To a 200 mL flask was added 1N NaOH (40 mL), MeOH (40 mL) and 1-[4-({2-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]ethyl}methylcarbamoyl)benzyl]piperidine-4-carboxylic acid ethyl ester (1.12 g, 1.7 mmol; prepared as described in Preparation 6). The reaction was allowed to stir at room temperature for 16 hours. The reaction mixture was then concentrated under reduced pressure and this mixture was acidified with 1N HCl (40 mL) at 0-5° C. with an ice bath. The product was then extracted with DCM (2×50 mL). The combined organic layers were washed with water (100 mL), brine (100 mL), dried over sodium sulfate, filtered and concentrated to afford the title compound (0.80 g, 1.28 mmol) in 75% yield. The title compound was sufficiently pure to use without further purification.

reactant | NaOH | 1N, 40 mL | [OH-].[Na+]
reactant | 1-[4-({2-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]ethyl}methylcarbamoyl)benzyl]piperidine-4-carboxylic acid ethyl ester | 1.7 mmol, 1.12 g | C(C)OC(=O)C1CCN(CC1)CC1=CC=C(C=C1)C(N(C)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O | C37H46N4O5
solvent | MeOH | 40 mL | CO | CH4O
product | 1-[4-({2-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]ethyl}methylcarbamoyl)benzyl]piperidine-4-carboxylic Acid | 1.28 mmol, 0.80 g, 75% yield | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCN(C(=O)C1=CC=C(CN2CCC(CC2)C(=O)O)C=C1)C)C1=CC=CC=C1 | C35H42N4O5
